US05292740
By reacting p-tert-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]benzenesulfonamide with the monosodium salt of 1,4-butanediol, there was obtained p-tert-butyl-N-[6-(4-hydroxybutoxy)-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]benzenesulfonamide as a white foam.

reactant | p-tert-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C22H24ClN3O4S
reactant | monosodium | [Na] | Na
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
product | p-tert-butyl-N-[6-(4-hydroxybutoxy)-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCCO)C | C26H33N3O6S
